US07067667B2
7-Hydroxymethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 150 mg (0.65 mmol) of 1,2,3,3a,5,9b-hexahydrocyclopenta[c]-quinolin-4-one-7-carboxylic acid in 20 ml of THF is mixed with 0.10 ml (0.70 mmol) of triethylamine and 0.07 ml (0.70 mmol) of ethyl chloroformate at room temperature. After 10 minutes, 76 mg (2.0 mmol) of sodium borohydride is added, and within 20 minutes, 10 ml of methanol is added in drops to it. The batch is stirred for 15 hours at room temperature, diluted with ethyl acetate (100 ml), washed with 20% citric acid (50 ml) and saturated NaCl (50 ml), dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 65 mg of product.

reactant | 1,2,3,3a,5,9b-hexahydrocyclopenta[c]-quinolin-4-one-7-carboxylic acid | 0.65 mmol, 150 mg | C1CCC2C(NC=3C=C(C=CC3C21)C(=O)O)=O | C13H13NO3
reactant | triethylamine | 0.70 mmol, 0.10 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.70 mmol, 0.07 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 2.0 mmol, 76 mg | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 7-Hydroxymethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 65 mg | OCC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C13H15NO2
